US05834506
3-(3-Hydroxy-phenyl)-1-phenyl-propan-1-one
The title compound was prepared as described in General Method 3 from 3-(3-hydroxy-phenyl)-1-phenyl-prop-2-en-1-one (8.0 g, 35.7 mmol), 5% Pd on BaSO4 (0.4 g), and THF (100 mL) at a reaction time of 2 hours. The crude product was purified by silica gel chromatography, eluting with EtOAc:hexane (10:90 to 25:75) to give the title compound, m.p. 81°-83° C.

reactant | 3-(3-hydroxy-phenyl)-1-phenyl-prop-2-en-1-one | 35.7 mmol, 8.0 g | OC=1C=C(C=CC1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
catalyst | Pd | [Pd] | Pd
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(3-Hydroxy-phenyl)-1-phenyl-propan-1-one | OC=1C=C(C=CC1)CCC(=O)C1=CC=CC=C1 | C15H14O2
